US04612379
Acetone (2.9 g) was added to sufficiently dehydrated toluene (500 ml) and the mixture was heated under reflux in a reaction flask equipped with a reflux condenser. While the reflux was continued, a warm solution obtained by dissolving formyl Meldrum's acid (8.6 g) in toluene (500 ml) on heating was dropwise added over about 2 hours, followed by subjecting the reaction mixture to heating under reflux for additional one hour and then subjecting the resulting reaction mixture to purifying operation in the same manner as in Example 1 to obtain 2,2-dimethyl-1,3-dioxin-4-one (5.3 g, yield 82%).

reactant | Acetone | 2.9 g | CC(=O)C | C3H6O
reactant | formyl Meldrum's acid | 8.6 g | CC1(OC(=O)C(=CO)C(=O)O1)C | C7H8O5
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethyl-1,3-dioxin-4-one | 5.3 g, yield 82% | CC1(OC=CC(O1)=O)C | C6H8O3
